US03987158
A solution of 4-chlorophenyl(thioacetamide) (14.8 g.) and methyl iodide (32 g.) in acetone (40 ml.) was heated to reflux for 20 minutes. The mixture was cooled and filtered to give pure methyl 4-chlorophenyl(thioacetimidate) hydriodide, m.p. 172°-174°.

reactant | 4-chlorophenyl(thioacetamide) | 14.8 g | ClC1=CC=C(C=C1)CC(=S)N | C8H8ClNS
reactant | methyl iodide | 32 g | CI | CH3I
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | methyl 4-chlorophenyl(thioacetimidate) hydriodide | I.ClC1=CC=C(C=C1)CC(SC)=N | InChI=1S/C9H10ClNS.HI/c1-12-9(11)6-7-2-4-8(10)5-3-7;/h2-5,11H,6H2,1H3;1H
